US08309542B2
(3SR,4SR)-5-Chloro-thiophene-2-carboxylic acid-[4-methoxy-1-{(4RS)-4,5-dimethyl-4,5,6,7-tetrahydro-thiazolo[5.4-c]pyridine-2-carbonyl}-pyrrolidin-3-yl]-amide
Prepared analogously to Example 1b from (3SR,4SR)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methoxy-pyrrolidine and (RS)-4,5-dimethyl-4,5,6,7-tetrahydro-thiazolo[5.4-c]pyridine-2-carboxylic acid (prepared analogously to WO2004058728) with HATU as coupling reagent.

reactant | (3SR,4SR)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methoxy-pyrrolidine | ClC1=CC=C(S1)C(=O)NC1CNCC1OC | C10H13ClN2O2S
reactant | (RS)-4,5-dimethyl-4,5,6,7-tetrahydro-thiazolo[5.4-c]pyridine-2-carboxylic acid | CC1N(CCC2=C1SC(=N2)C(=O)O)C | C9H12N2O2S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | (3SR,4SR)-5-Chloro-thiophene-2-carboxylic acid-[4-methoxy-1-{(4RS)-4,5-dimethyl-4,5,6,7-tetrahydro-thiazolo[5.4-c]pyridine-2-carbonyl}-pyrrolidin-3-yl]-amide | COC1C(CN(C1)C(=O)C=1SC=2C(N(CCC2N1)C)C)NC(=O)C=1SC(=CC1)Cl | C19H23ClN4O3S2
